US06063806
To a mixture of AcOH (10 ml), conc. sulfuric acid (10 ml) and nitric acid (0.55 ml) was added by portions 1-acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethylindoline (3.0 g) at 0° C., and the mixture was stirred at the same temperature for 5 hr. The reaction mixture was poured into ice water and extracted with CHCl3 (100 ml). After washing with water, the mixture was dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 2.7 g of 1-acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethyl-7-nitroindoline.

reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.55 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethylindoline | 3.0 g | C(C)(=O)N1CC(C2=C(C(=C(C=C12)C)Br)C)CCC(=O)OCC | C17H22BrNO3
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 1-acetyl-5-bromo-3-(2-ethoxycarbonylethyl)-4,6-dimethyl-7-nitroindoline | 2.7 g | C(C)(=O)N1CC(C2=C(C(=C(C(=C12)[N+](=O)[O-])C)Br)C)CCC(=O)OCC | C17H21BrN2O5
